US04279918
2-(4-chlorobenzyl)-1,1-dimethylpyrrolidinium iodide
Add 3.72 g of methyl iodide dropwise, with stirring, to 5.5 g of 2-(4-chlorobenzyl)-1-methylpyrrolidine in 40 ml of acetone. Filter off the formed crystalline precipitate and recrystallize it twice from methanol/diethyl ether to obtain 6.9 g (75% of theory) of the title compound (m.p. 184° to 186°).

reactant | methyl iodide | 3.72 g | CI | CH3I
reactant | 2-(4-chlorobenzyl)-1-methylpyrrolidine | 5.5 g | ClC1=CC=C(CC2N(CCC2)C)C=C1 | C12H16ClN
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 2-(4-chlorobenzyl)-1,1-dimethylpyrrolidinium iodide | [I-].ClC1=CC=C(CC2[N+](CCC2)(C)C)C=C1 | InChI=1S/C13H19ClN.HI/c1-15(2)9-3-4-13(15)10-11-5-7-12(14)8-6-11;/h5-8,13H,3-4,9-10H2,1-2H3;1H/q+1;/p-1
